US07666879B2
2-[2-Fluoro-4-(7-pyridin-4-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-N-[5-tert-butyl-4-morpholin-4-ylmethyl-thiazol-2-yl]-acetamide
Combine [2-fluoro-4-(7-pyridin-2-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-acetic acid, dihydrochloride (0.500 g, 1.19 mmol) and 5-tert-Butyl-4-morpholin-4-ylmethyl-thiazol-2-ylamine (0.334 g, 1.31 mmol) in DMF (6 mL). Add N,N-diisopropyl-ethylamine (0.54 mL, 3.93 mmol), then O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetra-methyluronium hexafluorophosphate (0.498 g, 1.31 mmol). The reaction mixture is stirred over the weekend under N2. Purify using an SCX cartridge (10 g VARIAN BondElut®), eluting with 1:1 methanol:dichloromethane, then 1:1 2 M NH3 in methanol:dichloromethane. Concentrate the latter and purify via reverse phase chromatography using a 25 cm by 50.8 mm (i.d.) column w/10 micron particles (MeCN/0.03% HCl H2O (5:95) to 100% MeCN; 30 min). Partition between ethyl acetate and 1 N NaOH. Dry the organic layer over magnesium sulfate, filter, and concentrate to the title compound (0.190 g, 27%). MS(ES), m/z 585 (M+1).

reactant | [2-fluoro-4-(7-pyridin-2-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-acetic acid, dihydrochloride | 1.19 mmol, 0.500 g | Cl.Cl.FC1=C(C=CC(=C1)C1=CN=C2N1C=CC(=C2)C2=NC=CC=C2)CC(=O)O
reactant | 5-tert-Butyl-4-morpholin-4-ylmethyl-thiazol-2-ylamine | 1.31 mmol, 0.334 g | C(C)(C)(C)C1=C(N=C(S1)N)CN1CCOCC1 | C12H21N3OS
reactant | N,N-diisopropyl-ethylamine | 3.93 mmol, 0.54 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetra-methyluronium hexafluorophosphate | 1.31 mmol, 0.498 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 2-[2-Fluoro-4-(7-pyridin-4-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-N-[5-tert-butyl-4-morpholin-4-ylmethyl-thiazol-2-yl]-acetamide | FC1=C(C=CC(=C1)C1=CN=C2N1C=CC(=C2)C2=CC=NC=C2)CC(=O)NC=2SC(=C(N2)CN2CCOCC2)C(C)(C)C | C32H33FN6O2S
